US05591752
While stirring under ice cooling, 0.34 ml of thionyl chloride was added to 1.88 g of 2-(7-chloroquinolin-2-yl)methoxy-11-hydroxy-6,11-dihydrodibenz[b,e]oxepine dissolved in 21 ml of methylene chloride and the mixture was stirred at the same temperature for 30 minutes to produce 11-chloro-2-(7-chloroquinolin-2-yl)methoxy-6,11-dihydrodibenz[b,e]oxepine. After the solvent was removed from the reaction mixture, the residue was dissolved in 20 ml of methylene chloride, 1.25 ml of triethylamine and 1.69 ml of methyl thioglycolate were added to the solution while stirring under ice cooling and the mixture was stirred at room temperature for 7 hours. After the solvent was removed from the reaction mixture, 60 ml of ethanol and 45 ml of a 1N-sodium hydroxide aqueous solution were added to the residue and the mixture was stirred at room temperature for 1 hour. After the solvent was removed, 150 ml of ice water was added to the residue, the mixture was adjusted to about pH 2 with 1N-hydrochloric acid and then the aqueous layer was extracted with 150 ml of methylene chloride. After the organic layer was washed with water, the residue obtained by removing the solvent was applied to silica gel column chromatography to obtain 0.54 g of the title compound as white powder.

reactant | thionyl chloride | 0.34 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 2-(7-chloroquinolin-2-yl)methoxy-11-hydroxy-6,11-dihydrodibenz[b,e]oxepine | 1.88 g | ClC1=CC=C2C=CC(=NC2=C1)COC1=CC2=C(OCC3=C(C2O)C=CC=C3)C=C1 | C24H18ClNO3
solvent | methylene chloride | 21 ml | C(Cl)Cl | CH2Cl2
product | 11-chloro-2-(7-chloroquinolin-2-yl)methoxy-6,11-dihydrodibenz[b,e]oxepine | ClC1C2=C(OCC3=C1C=CC=C3)C=CC(=C2)OCC2=NC3=CC(=CC=C3C=C2)Cl | C24H17Cl2NO2
